### PR TITLE
[Merged by Bors] - feat: `algebraMap K L` is uniform continuous with respect to adic topologies, when the ideal `w` of `L` lies above `v` 

### PR DESCRIPTION
**Pull request by smmercuri**
- `A` is a Dedekind domain with field of fractions `K`.
- `B` is a Dedekind domain with field of fractions `L`.
- `L` is a field extension of `K`.
- `v` is a height one prime ideal of `A`.
- `w` is a height one prime ideal of `B` lying over `v`.

Then respective valuations are related via the ramification index, and `algebraMap (WithVal (v.valuation K)) (WithVal (w.valuation L))` is uniform continuous.

---

- [x] depends on: #34049
- [x] depends on: #35972
- [x] depends on: #36144
- [x] depends on: #36310

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by smmercuri** [comment]
> Are you in a hurry to get this in? I don't want us to spend review time on PRs that use API that is in the process of being deprecated, making the refactor harder.

I've removed some material and moved the remaining over to using `ValuativeRel` and `IsValuativeTopology` so that it is now in line with the refactor. Perhaps @jjdishere can also take a quick look to make sure the new material minimises disruption to the refactor.

For the rest, I'm not in a particular hurry so I'm happy for that to wait until after the refactor.

**Comment by jjdishere** [comment]
I think the current version will not put much burden on my refactor. Furthermore, the problem of
`attribute [-instance] ValuativeRel.isUniformAddGroup in` would be fixed after my refactor.

File: Mathlib/Algebra/Order/Hom/Units.lean [hunk 1]
```diff
@@ -20,3 +20,7 @@ def OrderMonoidIso.unitsCongr {α β : Type*} [Preorder α] [Monoid α] [Preorde
     (e : α ≃*o β) : αˣ ≃*o βˣ where
   __ := Units.mapEquiv e.toMulEquiv
   map_le_map_iff' {x y} := by simp [← Units.val_le_val]
+
+lemma OrderMonoidIso.unitsCongr_symm_apply {α β : Type*} [Preorder α] [Monoid α] [Preorder β]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Order/Hom/Units.lean]: Can  this be `simp`? Also you can maybe use some of the variables already in scope.

File: Mathlib/Topology/Algebra/Valued/WithVal.lean [hunk 2]
```diff
@@ -194,6 +196,15 @@ instance : ValuativeRel (WithVal v) := .ofValuation (valuation v)
...
 instance : (valuation v).Compatible := .ofValuation (valuation v)
 
+instance : IsValuativeTopology (WithVal v) where
+  mem_nhds_iff {s x} := by
+    simp only [Set.image_add_left, Set.preimage_setOf_eq, Valued.mem_nhds]
+    let e := ValuativeRel.ValueGroupWithZero.orderMonoidIso (WithVal.valuation v)
+    apply (show Valued.v = WithVal.valuation v by rfl ▸ e).unitsCongr.symm.exists_congr fun a ↦ ?_
+    simp [-OrderMonoidIso.val_unitsCongr_symm_apply, OrderMonoidIso.unitsCongr_symm_apply,
+      e.lt_symm_apply, e, ← Valuation.restrict_def, sub_eq_neg_add]
+    rfl
```
Comment (riccardobrasca) [inline Mathlib/Topology/Algebra/Valued/WithVal.lean:234]: Is it possible to avoid the `rfl` here? Are we missing an API lemma?

File: Mathlib/Topology/Algebra/Valued/WithVal.lean [hunk 3]
```diff
@@ -461,6 +473,7 @@ theorem IsEquiv.orderRingIso_symm_apply (h : v.IsEquiv w) (x : WithVal w) :
 
 open MonoidWithZeroHom MonoidWithZeroHom.ValueGroup₀
 
+attribute [-instance] ValuativeRel.isUniformAddGroup in
```
Comment (riccardobrasca) [inline Mathlib/Topology/Algebra/Valued/WithVal.lean:521]: What's going on here?

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/Topology/Algebra/Valued/WithVal.lean (hunk 3 above)
Comment (smmercuri) [reply Mathlib/Topology/Algebra/Valued/WithVal.lean:521]: There is a diamond now (due to the new imports) on `WithVal v` between `ValuativeRel.isUniformAddGroup` and `Valued.toIsUniformAddGroup`. 

Note that [`ValuativeRel.uniformSpace`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/ValuativeRel/ValuativeTopology.html#ValuativeRel.uniformSpace) is a `def` in order to avoid such a situation for `UniformSpace`, but `ValuativeRel.isUniformAddGroup` remains an instance. As per @jjdishere's comment above this will be removable after `Valued` has been refactored. I can add a TODO

File: Mathlib/Topology/Algebra/Valued/WithVal.lean (hunk 2 above)
Comment (smmercuri) [reply Mathlib/Topology/Algebra/Valued/WithVal.lean:234]: I think this is because of the `MonoidWithZeroHomClass` input to `ValueGroup\0`, which should be fixed after #36911

File: Mathlib/Topology/Algebra/Valued/WithVal.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/Topology/Algebra/Valued/WithVal.lean:521]: Yes please, add at least a comment! Thanks!

File: Mathlib/Algebra/Order/Hom/Units.lean (hunk 1 above)
Comment (smmercuri) [reply Mathlib/Algebra/Order/Hom/Units.lean]: I remember why this wasn't `simp` now, it's because there is already
```
OrderMonoidIso.val_unitsCongr_symm_apply ... (a : βˣ) : ↑(e.unitsCongr.symm a) = (↑e).symm ↑a
```
from the `[simps!]` tag in the def. In my opinion, the added `unitsCongr_symm_apply` is more useful as `simp`, so perhaps I should switch off `symm_apply` from `[simps!]`, what do you think?

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
